### PR TITLE
[Merged by Bors] - feat(MvPowerSeries): some lemmas `truncTotal` of `subst`

### PR DESCRIPTION
**Pull request by WenrongZou**
This PR adds some lemmas about truncation of total degree of a substitution. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean [hunk 1]
```diff
@@ -285,28 +285,58 @@ end TruncLE
...
+theorem coeff_truncTotal_eq_ite :
+    (truncTotal n p).coeff x = if x.degree < n then p.coeff x else 0 := by
+  by_cases h : x.degree < n
+  · rw [if_pos h, coeff_truncTotal _ h]
+  · rw [if_neg h, coeff_truncTotal_eq_zero _ (not_lt.mp h)]
+
+theorem constantCoeff_truncTotal_eq_ite :
+    (truncTotal n p).constantCoeff = if 0 < n then p.constantCoeff else 0 := by
+  rw [MvPolynomial.constantCoeff_eq, coeff_truncTotal_eq_ite]
+  rfl
```
Comment (BryceT233) [inline Mathlib/RingTheory/MvPowerSeries/Trunc.lean]:
```suggestion
  rw [MvPolynomial.constantCoeff_eq, coeff_truncTotal_eq_ite,
    coeff_zero_eq_constantCoeff_apply, map_zero]
```

Comment (BryceT233) [reply Mathlib/RingTheory/MvPowerSeries/Trunc.lean]: Just a minor change! :)

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
